US07449475B2
Methyl 4-fluoro-2-[(2S)-oxiran-2-ylmethoxy]benzoate
A mixture of methyl 4-fluoro-2-hydroxybenzoate (456.3 mg, 1.76 mmol), (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate (300 mg, 1.76 mmol) and Cs2CO3 (687.4 mg, 2.11 mmol) in DMF (4.5 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and H2O, organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was opurified by silica gel flash chromatography (0-30% ethyl acetate in petroleum spirit) to give the subtitled compound (385 mg).

reactant | methyl 4-fluoro-2-hydroxybenzoate | 1.76 mmol, 456.3 mg | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate | 1.76 mmol, 300 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
reactant | Cs2CO3 | 2.11 mmol, 687.4 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
product | Methyl 4-fluoro-2-[(2S)-oxiran-2-ylmethoxy]benzoate | 385 mg | FC1=CC(=C(C(=O)OC)C=C1)OC[C@H]1OC1 | C11H11FO4
